US06632919B1
Methyl N-((5-Methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetyl)-N-(2-(tert-butyloxycarbonyl)aminoethyl)glycinate
To a precooled (0° C.) solution of (5-methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetic acid (1.20 g, 5.50 mmol) and DhbtOH (0.987 g, 6.10 mmol) in DMF (25 mL) was added DCC (1.25 g, 6.10 mmol) and the resulting mixture was stirred for 40 min. prior to the addition of methyl N-(2-(tert-butyloxycarbonyl)aminoethyl)glycinate (1.32 g, 6.10 mmol). The mixture was stirred at rt. overnight, evaporated in vacuo, redissolved in ethyl acetate (75 mL) and the DCU filtered off. The organic phase was washed with NaHCO3 (3×25 mL) and with brine (2×25 mL), dried (MgSO4) and evaporated in vacuo. The crude product was purified on silica using MeOH/dichloromethane (95:5 to 90:10 v/v) as the eluent. Fractions containing the product were pooled and evaporated in vacuo. to yield the desired product (752 mg, 33%) (mp 175-77° C.). 1H NMR (DMSO-d6; this compound exists as two rotamers; chemical shifts for the minor rotamer is given in brackets): δ 12.10 (12.08), (s br, 1H), 8.33 (8.33) (d, J=4.8 Hz, 1H), 7.96 (7.90) (s, 1H), 7.09 (d, J=4.8 Hz, 1H), 6.92 (6.70) (m, 1H), 4.07 (4.37) (s, 2H), 3.67 (s, 2H), 3.64 (s, 3H), 3.46 (m, 2H), 3.17 (m, 2H), 2.54 (2.53) (s, 3H), 1.37 (1.35) (s, 9H). 13C NMR (DMSO-d6): δ 170.30 (170.50), 170.04, 162.30, 155.73, 149.47, 149.25, 145.16, 132.92 (133.56), 129.12 (129.28), 119.87, 113.35, 77.97, 52.13, 51.76 (50.12), 47.47 (48.16), 38.98 (38.39), 33.81 (33.99), 28.24, 17.66. FAB+MS (m/z): 433.2087 (M+H+, calc. for C21H28N4O6+H+ 433.2086).

reactant | (5-methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetic acid | 5.50 mmol, 1.20 g | CC1=C2C=C(C(NC2=NC=C1)=O)CC(=O)O | C11H10N2O3
reactant | DCC | 6.10 mmol, 1.25 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | methyl N-(2-(tert-butyloxycarbonyl)aminoethyl)glycinate | 6.10 mmol, 1.32 g | C(C)(C)(C)OC(=O)NCCNCC(=O)OC | C10H20N2O4
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Methyl N-((5-Methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetyl)-N-(2-(tert-butyloxycarbonyl)aminoethyl)glycinate | 752 mg, 33% | CC1=C2C=C(C(NC2=NC=C1)=O)CC(=O)N(CC(=O)OC)CCNC(=O)OC(C)(C)C | C21H28N4O6
